US07985762B2
In a 5 L R flask dissolved t-butyl glycine (74 g, 0.56 mol, 1.02 eq.) in saturated sodium bicarbonate (11 vol). Cyclopentyl 2,5-dioxopyrrolidin-1-yl carbonate (126 g, 0.55 mol, 1 eq.) was dissolved in acetone (5.5 vol) and the solution slowly added via addition funnel at room temperature to the solution of the glycine. The reaction mixture was stirred at room temperature until complete (approximately 4 hours). The acetone was removed under reduced pressure and the remaining aqueous solution was extracted with 30% ethyl acetate in hexanes (thrice, 5.5 vol each). The organic layers were discarded. The pH of the aqueous layer was adjusted to 2 with 2 N HCl and then extracted with ethyl acetate (thrice, 5.5 vol). The combined organic layers were dried (Na2SO4), filtered, and the solvent removed under reduced pressure to provide a clear oil the slowly crystallized. The crude product was crystallized from hexanes/ethyl acetate to provide (S)-2-(cyclopentyloxycarbonylamino)-3,3-dimethylbutanoic acid as a white solid (82 g). The mother liquid was stripped and a second crop of crystals obtained (combined yield 105.54 g, 79% yield).

reactant | t-butyl glycine | 0.56 mol, 74 g, 1.02 eq. | C(C)(C)(C)NCC(=O)O | C6H13NO2
reactant | Cyclopentyl 2,5-dioxopyrrolidin-1-yl carbonate | 0.55 mol, 126 g, 1 eq. | C(OC1CCCC1)(ON1C(CCC1=O)=O)=O | C10H13NO5
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | (S)-2-(cyclopentyloxycarbonylamino)-3,3-dimethylbutanoic acid | 82 g, 79% yield | C1(CCCC1)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C12H21NO4
